US08084449B2
Process (A) A mixture of 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylic acid (80 mg, 0.18 mmol), 1,1-dimethylethyl (2S)-4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate (76 mg, 0.18 mmol), HBTU (80 mg, 0.21 mmol) and Et3N (0.12 mL, 0.88 mmol) in DCM (3 mL) was stirred at room temperature overnight. The reaction was quenched with saturated NaHCO3, and extracted with DCM twice. The combined organic layers were then washed with water followed by a brine wash. The organic layer was then concentrated under vacuum to give a crude residue: LC-MS m/z 848 (M+H)+. The crude residue was dissolved in 25% TFA in DCM (2 mL) and stirred at RT for 2 h. It was purified with a Gilson HPLC (with 0.1% TFA condition), eluting with 10 to 70% CH3CN in water in a flowrate of 20 mL/min. The fractions were combined and then converted to the free base with saturated NaHCO3. The organic layer was recovered and dried over sodium sulfate, filtered and then concentrated to give N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-2,6-pyridinedicarboxamide as a solid (51 mg, 39%). LC-MS m/z 748 (M+H)+.

reactant | 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylic acid | 0.18 mmol, 80 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=CC(=N2)C(=O)O)CC | C23H28N6O4
reactant | 1,1-dimethylethyl (2S)-4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate | 0.18 mmol, 76 mg | NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)F | C24H32FN3O2
reactant | HBTU | 0.21 mmol, 80 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.88 mmol, 0.12 mL | CCN(CC)CC | C6H15N
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
reactant | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-2,6-pyridinedicarboxamide | 51 mg, 39% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=NC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CN2C[C@@H](NCC2)C)CC | C42H50FN9O3
